US09227985B2
Step 6. 7-Bromo-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one
Triethylamine (140 μL, 1.0 mmol) was added to a solution of 8-bromo-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine (160 mg, 0.50 mmol)) in THF (6.0 mL), followed by addition of triphosgene (60 mg, 0.2 mmol), and the mixture was subsequently stirred at room temperature for 10 min. The mixture was diluted with water and extracted with ethyl acetate. The organic extracts were washed with brine and concentrated. Purification on silica gel eluting ethyl acetate in hexanes afforded the title compound. LCMS calc. for C14H10BrFN3O2 (M+H)+: m/z=350.0. found: 350.0.

reactant | Triethylamine | 1.0 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | 8-bromo-6-fluoro-3-pyridin-3-yl-3,4-dihydro-2H-1,4-benzoxazin-5-amine | 0.50 mmol, 160 mg | BrC=1C=C(C(=C2NC(COC21)C=2C=NC=CC2)N)F | C13H11BrFN3O
reactant | triphosgene | 0.2 mmol, 60 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 7-Bromo-9-fluoro-4-pyridin-3-yl-4,5-dihydroimidazo[1,5,4-de][1,4]benzoxazin-2(1H)-one | BrC1=CC(=C2C=3N(C(COC31)C=3C=NC=CC3)C(N2)=O)F | C14H9BrFN3O2
